US07071201B2
Example 230: Synthesis of 1-[1-(4-sulfamoylphenethyl)-piperdin-4-yl]-6-methoxyindoline
1-(Piperidin-4-yl)-6-methoxyindoline (350 mg) and 4-sulfamoylphenethyl bromide (340 mg) were treated as in Example 2 to give the title compound (70 mg) as a brown powder (yield: 13%).

reactant | 1-(Piperidin-4-yl)-6-methoxyindoline | 350 mg | N1CCC(CC1)N1CCC2=CC=C(C=C12)OC | C14H20N2O
reactant | 4-sulfamoylphenethyl bromide | 340 mg | S(N)(=O)(=O)C1=CC=C(CCBr)C=C1 | C8H10BrNO2S
product | 1-[1-(4-sulfamoylphenethyl)-piperdin-4-yl]-6-methoxyindoline | 70 mg, yield: 13% | S(N)(=O)(=O)C1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)OC)C=C1 | C22H29N3O3S
